US07973026B2
Step 6: methyl 6-(2-fluorocyclohexyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate
Diethylaminosulfur trifluoride (1.2 eq.) was added at −60° C. to a 0.1M solution of methyl 6-(2-hydroxycyclohexyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate in dry EtOAc, and the mixture was stirred at this temperature for 1 h, then allowed to warm slowly to RT. Aq. NaHCO3-solution was added and the mixture was extracted with EtOAc; the organic layer was washed with water and brine, dried on Na2SO4 and concentrated. Chromatography (PE/EtOAc) afforded the title compound (73%). 1H-NMR (300 MHz, CDCl3, 300 K, δ) 8.31 (bs, 1H), 7.67 (s, 1H), 7.06 (s, 1H), 4.53 (dtd, 1H, J 48.6, 10.1, 4.5), 3.88 (s, 3H), 2.88-2.77 (m, 1H), 2.41-1.17 (m, 8H); MS (ES+) m/z 282 (M+H)+.

reactant | Diethylaminosulfur trifluoride | 1.2 eq. | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | methyl 6-(2-hydroxycyclohexyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | OC1C(CCCC1)C=1C2=C(NC1)C=C(S2)C(=O)OC | C14H17NO3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 6-(2-fluorocyclohexyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | 73% | FC1C(CCCC1)C=1C2=C(NC1)C=C(S2)C(=O)OC | C14H16FNO2S
